US05977219
5-Phenylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole
To a stirred mixture of 75 g of 5-chloro-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole and 105 g of N-methylpyrrolidone heated at 90° C. is added first 44.3 g of 45% aqueous potassium hydroxide solution over a 15-minute period then 20.4 g of thiophenol over another 15 minutes. The reaction mixture is then heated at 170-175° C. for four hours with water being removed by distillation. After cooling to 100° C., xylene and water are added and the resultant mixture is made acidic with 15% aqueous hydrogen chloride solution. The organic layer is separated and washed with water and then concentrated. The crude product residue is recrystallized from methanol to yield 82 g of the title compound as a pale yellow solid melting at 124-125° C.

reactant | 5-chloro-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 75 g | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C29H34ClN3O
reactant | N-methylpyrrolidone | 105 g | CN1C(CCC1)=O | C5H9NO
reactant | potassium hydroxide | 44.3 g | [OH-].[K+]
reactant | thiophenol | 20.4 g | C1(=CC=CC=C1)S | C6H6S
solvent | water | O | H2O
product | 5-Phenylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 82 g | C1(=CC=CC=C1)SC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C35H39N3OS
